US08084471B2
1-(2-Isobutyl-4-pyridyl)-4-methyl-pentanone (11)
Anhydrous Et2O (30 mL) was added to magnesium turnings (1.114 g, 45.8 mmol) in a flame-dried flask. Addition of one drop of dibromoethylene was followed by slow addition of 1-bromo-3-methylbutane (5.895 g, 39.0 mmol) in 20 mL of anhydrous ether at a rate that kept the reaction mixture under reflux. Once the addition was completed the reaction was refluxed for 1 h and cooled to RT. The mixture was then added via cannula to a solution of 4-cyano-2-isobutylpyridine (3.000 g, 18.7 mmol) in 30 mL of anhydrous ether at 0° C. The mixture was stirred at RT for 30 min. and then refluxed for 3 h. The solution was cooled down to RT, poured into 200 mL of 0.5M HCl, and stirred for 30 min. A solution of 1M NaOH was added dropwise until the solution reached pH 9 and the resulting mixture was then extracted with ether (×3), dried with Na2SO4 and concentrated under vacuum. The resulting dark oil was purified by flash chromatography using 1:5 EtOAc/Hexane to give a brown oil (3.296 g, 75%); 1H NMR (400 MHz, CDCl3): δ 0.94-0.98 (m, 12H), 1.61-1.66 (m, 3H), 2.15 (m, 1H), 2.75 (d, J=6.8 Hz, 2H), 2.97 (dd, J=7.2 Hz, J2=7.6 Hz, 2H), 7.54 (m, 2H), 8.71 (d, J=4.8 Hz, 1H); C NMR (100 MHz, CDCl3): δ 22.4, 27.7, 29.3, 32.7, 36.9, 47.6, 118.4, 120.7, 143.2, 150.3, 163.1, 200.3; HRMS-EI (m/z): [M+H+] calcd for [C15H24NO]+, 234.1858. found, 234.1856.

reactant | magnesium | 45.8 mmol, 1.114 g | [Mg] | Mg
reactant | 1-bromo-3-methylbutane | 39.0 mmol, 5.895 g | BrCCC(C)C | C5H11Br
reactant | 4-cyano-2-isobutylpyridine | 18.7 mmol, 3.000 g | C(#N)C1=CC(=NC=C1)CC(C)C | C10H12N2
reactant | HCl | 0.5M, 200 mL | Cl | ClH
reactant | NaOH | 1M | [OH-].[Na+]
catalyst | dibromoethylene | one drop | BrC=CBr | C2H2Br2
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | Et2O | 30 mL | CCOCC | C4H10O
product | 1-(2-Isobutyl-4-pyridyl)-4-methyl-pentanone | 3.296 g, 75% | C(C(C)C)C1=NC=CC(=C1)CC(CC(C)C)=O | C15H23NO
